US08461372B2
To a solution of Diglycolic anhydride (30 g) in Dimethylformamide (85 ml) at 60° C. was added dropwise a solution of 1,6-Hexamethylene diamine (11.6 g) in Dimethylformamide (50 ml). The reaction mixture was stirred at the same temperature for 1 hour. The reaction mixture was cooled to 0° C. and maintained for 3 hours. The solid was filtered and washed with chloroform and dried to get pure {[6-(2-Carboxy methoxy-acetylamino) -hexylcarbamoyl]-methoxy}-acetic acid (9 g) as white powder with a melting point of 178-180° C. The compound was characterized by IH NMR (DMSO-d6) δ1.25 (m, 2H, CH2), 1.55 (m, 2H, CH2), 2.80 (m, 2H, CH2), 3.90 (s, 4H, 2X CH2), 7.90 (bs, 1H, NH).

reactant | Diglycolic anhydride | 30 g | C1(COCC(=O)O1)=O | C4H4O4
reactant | 1,6-Hexamethylene diamine | 11.6 g | C(CCCN)CCN | C6H16N2
solvent | Dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | {[6-(2-Carboxy methoxy-acetylamino) -hexylcarbamoyl]-methoxy}-acetic acid | 9 g | C(=O)(O)COCC(=O)NCCCCCCNC(=O)COCC(=O)O | C14H24N2O8
